US07521480B2
1-[5-Chloro-2-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-phenyl]-3-(3-trifluoromethyl-phenyl)-urea (Compound D1)
3-(2-Amino-4-chloro-phenyl)-4H-[1,2,4]oxadiazol-5-one (400 mg, 1.92 mmol) was dissolved in 20 ml dry THF and 3-trifluoromethyl-phenyl-isocyanate (450 mg, 2.40 mmol) was added and the reaction stirred for 16 hours. The solvent was reduced under vacuum and the product recrystallised from ethyl acetate and heptane to yield 480 mg (63%) of off-white crystalline solid (m.p. 246-248; decomposition).

reactant | 3-(2-Amino-4-chloro-phenyl)-4H-[1,2,4]oxadiazol-5-one | 1.92 mmol, 400 mg | NC1=C(C=CC(=C1)Cl)C1=NOC(N1)=O | C8H6ClN3O2
reactant | 3-trifluoromethyl-phenyl-isocyanate | 2.40 mmol, 450 mg | FC(C=1C=C(C=CC1)N=C=O)(F)F | C8H4F3NO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1-[5-Chloro-2-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-phenyl]-3-(3-trifluoromethyl-phenyl)-urea | 480 mg, 63% | ClC=1C=CC(=C(C1)NC(=O)NC1=CC(=CC=C1)C(F)(F)F)C1=NOC(N1)=O | C16H10ClF3N4O3
